US08293746B2
Step 7.7: (3,5-Dimethoxy-phenyl)-carbamic acid tert-butyl ester
A solution of di-tert-butyl-dicarbonate (145 g, 651 mmol, 1.3 equiv) in THF (200 mL) is added dropwise to a solution of 3,5-dimethoxyaniline (78.2 g, 500 mmol) in THF (1.5 L) at RT, under an argon atmosphere. The reaction mixture is heated to reflux for 4.5 h (upon heating considerable gas evolution is observed), allowed to cool to RT and concentrated. The residue is diluted with EtOAc (800 mL) and H2O (800 mL). The layers are separated and the aqueous phase is extracted with EtOAc (2×200 mL). The combined organic phase is washed with 0.1N HCl (200 mL), H2O, and brine, dried (Na2SO4), filtered and concentrated. The residue is crystallized from DCM/Hex to provide the title compound. ESI-MS: 252.1 [M-H]−, TLC: Rf=0.34 (Hex/EtOAc, 3:1).

reactant | di-tert-butyl-dicarbonate | 651 mmol, 145 g, 1.3 equiv | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3,5-dimethoxyaniline | 500 mmol, 78.2 g | COC=1C=C(N)C=C(C1)OC | C8H11NO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 L | C1CCOC1 | C4H8O
product | (3,5-Dimethoxy-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC(=CC(=C1)OC)OC)=O | C13H19NO4
